US07452886B2
1-Prop-2-ynyl-1H-imidazole (15 mmol) is dissolved in DMF at room temperature under nitrogen atmosphere. To the solution, 5-bromo-4-(2,2-dimethyl-propylamino)-pyrimidine-2-carbonitrile (8 mmol), triethylamine (24 mmol), copper(I) iodide (0.8 mmol), and dichlorobis(triphenylphosphine)palladium (II) (0.4 mmol) are added successively. The mixture is heated at 80° C. under nitrogen atmosphere for 3 h. After cooling at room temperature, the mixture is diluted with H2O and AcOEt and filtered with celite. The organic layer is taken, dried over MgSO4 and evaporated in vacuo. The residue is purified by silica gel column chromatography (AcOEt:MeOH=20:1) to give 7-(2,2-dimethyl-propyl)-6-imidazol-1-ylmethyl-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile in 64% yield.

reactant | 1-Prop-2-ynyl-1H-imidazole | 15 mmol | C(C#C)N1C=NC=C1 | C6H6N2
reactant | 5-bromo-4-(2,2-dimethyl-propylamino)-pyrimidine-2-carbonitrile | 8 mmol | BrC=1C(=NC(=NC1)C#N)NCC(C)(C)C | C10H13BrN4
reactant | triethylamine | 24 mmol | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
solvent | AcOEt | CCOC(=O)C | C4H8O2
catalyst | copper(I) iodide | 0.8 mmol | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium | 0.4 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-(2,2-dimethyl-propyl)-6-imidazol-1-ylmethyl-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 64% yield | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CN2C=NC=C2)(C)C | C16H18N6
